US08067445B2
Step 1: [2′-(3-Benzyl-1-ethyl-ureidomethyl)-6-methoxy-4′-trifluormethyl-biphenyl-3-yl]-acetic acid methyl ester
To (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester (0.207 g, 0.54 mmol) in CH2Cl2 (2 mL) at 0° C. was added diisopropylethylamine (0.21 mL, 1.19 mmol), followed by phosgene (20% in toluene; 0.34 mL, 0.65 mmol), and the reaction was stirred for 2 hours at 0° C. Benzylamine (0.09 mL, 0.81 mmol) was then added, and the reaction was stirred for 15 minutes. Triethylamine (0.1 mL, 0.72 mmol) was added, and the reaction was stirred for 1 hour. Additional benzylamine (0.09 mL, 0.81 mmol) and diisopropylethylamine (0.21 mL, 1.19 mmol) were added, and the reaction was stirred for 3 hours, until no starting material was seen by analytical LCMS. The mixture was partitioned between H2O and CH2Cl2, and the aqueous layer was separated and extracted twice with CH2Cl2. The combined organic layers were dried and concentrated, and the residue was purified by silica gel chromatography (20-40% EtOAc in hexanes) to give the title compound.

reactant | (2′-ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | 0.54 mmol, 0.207 g | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C20H22F3NO3
reactant | diisopropylethylamine | 1.19 mmol, 0.21 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | phosgene | 0.65 mmol, 0.34 mL | C(=O)(Cl)Cl | CCl2O
reactant | Benzylamine | 0.81 mmol, 0.09 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | Triethylamine | 0.72 mmol, 0.1 mL | C(C)N(CC)CC | C6H15N
reactant | benzylamine | 0.81 mmol, 0.09 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | diisopropylethylamine | 1.19 mmol, 0.21 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | [2′-(3-Benzyl-1-ethyl-ureidomethyl)-6-methoxy-4′-trifluormethyl-biphenyl-3-yl]-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)NCC1=CC=CC=C1)CC)=O | C28H29F3N2O4
